US04923857
To a mixture of (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (1.35 g) and methyl isocyanate (0.31 ml) was added a drop of pyridine. The resulting mixture was allowed to stand at ambient temperature for 2 days. Evaporation of the mixture gave a residue, which was chromatographed on silica gel (60 ml) eluting with a mixture of n-hexane and ethyl acetate (1:1 V/V) to give (2S,4R)-1-allyloxycarbonyl-4-(methylcarbamoyloxy)-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (1.60 g).

reactant | (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 1.35 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)C=C(C(C)=O)C | C13H19NO4
reactant | methyl isocyanate | 0.31 ml | CN=C=O | C2H3NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-1-allyloxycarbonyl-4-(methylcarbamoyloxy)-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 1.60 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(NC)=O)C=C(C(C)=O)C | C15H22N2O5
